US06673372B1
Synthesis of (S)-6-chloro-4-cyclopropylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one can be accomplished through the use of commercially available 4-chloroaniline. After reaction with pivaloyl chloride in the presence of hydroxide to afford the corresponding amide, treatment with an alkyl lithium and ethyl triflouroacetate is followed by acidification with a mineral acid to provide the salt of the triflouroketone (Scheme 1).

reactant | (S)-6-chloro-4-cyclopropylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=CC2=C([C@](OC(N2)=O)(C(F)(F)F)C#CC2CC2)C1 | C14H9ClF3NO2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydroxide | [OH-]
product | ethyl triflouroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
